US04293557
One gram of 3-[3-(1-piperidinylmethyl)phenoxy]propylamine was dissolved in 1 ml of pyridine, and 0.5 ml of acetic anhydride was added. The mixture was allowed to stand at room temperature for 4 hours. The solvent was distilled off under reduced pressure, and small amounts of water and potassium carbonate were added. The mixture was extracted with chloroform, washed with water, and dried. Then, the solvent was distilled off. The residue was purified by TLC (developing solvent: chloroform/methanol=9/l) to afford 753 mg of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl] acetamide as an oil.

reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propylamine | One gram | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl] acetamide | 753 mg | N1(CCCCC1)CC=1C=C(OCCCNC(C)=O)C=CC1 | C17H26N2O2
